US06017919
2-[2-(4-Hydroxyphenyl)ethyl]-methoxy-5-pentyloxy-2H-isoquinolin-1-one (681.8 mg, 1.79 mmol, 1.0 eq) was dissolved in dichloromethane (7 ml), and 2,6-lutidine (575 mg, 5.36 mmol, 3 eq) and acetic anhydride (1.13 g, 5.36 mmol, 3 eq) were successively added under ice-cooling. The mixture was stirred at room temperature for 12 hours and refluxed under heating for 3 hours. The reaction mixture was cooled to room temperature, and water (10 ml) and a 10% aqueous hydrochloric acid solution (10 ml) were successively added. The miture was extracted twice with dichloromethane (30 ml). The organic layers were combined, washed with saturated brine (40 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (ethyl acetate/ hexane=1/1) to give 4-[2-(6-methoxy-1-oxo-5-pentyloxy-1H-isoquinolin-2-yl)ethyl]phenyl acetate (734 mg, 97.0%) as colorless crystals.

reactant | 2-[2-(4-Hydroxyphenyl)ethyl]-methoxy-5-pentyloxy-2H-isoquinolin-1-one | 1.79 mmol, 681.8 mg, 1.0 eq | OC1=CC=C(C=C1)CCN1C(C2=CC=CC(=C2C=C1OC)OCCCCC)=O | C23H27NO4
reactant | 2,6-lutidine | 5.36 mmol, 575 mg, 3 eq | N1=C(C=CC=C1C)C | C7H9N
reactant | acetic anhydride | 5.36 mmol, 1.13 g, 3 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 4-[2-(6-methoxy-1-oxo-5-pentyloxy-1H-isoquinolin-2-yl)ethyl]phenyl acetate | 734 mg, 97.0% | C(C)(=O)OC1=CC=C(C=C1)CCN1C(C2=CC=C(C(=C2C=C1)OCCCCC)OC)=O | C25H29NO5
